* C:\Users\Samyuktha\eSim-Workspace\CaptoDig\CaptoDig1.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/08/22 14:19:38

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC1  Net-_SC1-Pad1_ GND Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_hvt		
SC2  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC1-Pad1_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_hvt		
SC3  Net-_SC2-Pad1_ Net-_SC2-Pad2_ Net-_SC3-Pad3_ GND sky130_fd_pr__nfet_01v8		
SC4  Net-_SC3-Pad3_ Net-_SC4-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ sam_mux		
U2  Net-_U2-Pad1_ Net-_SC1-Pad3_ Net-_U2-Pad3_ Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ adc_bridge_3		
U3  Net-_U1-Pad4_ Net-_SC2-Pad2_ dac_bridge_1		
v1  Net-_U2-Pad1_ GND DC		
v2  Net-_SC4-Pad2_ GND DC		
X1  ip1 Net-_SC2-Pad1_ Net-_X1-Pad3_ VLC_new		
X2  Net-_X1-Pad3_ Net-_SC2-Pad1_ Net-_X2-Pad3_ VLC_new		
X3  Net-_X2-Pad3_ Net-_SC2-Pad1_ Net-_U2-Pad3_ VLC_new		
SC5  Net-_SC2-Pad1_ GND sky130_fd_pr__cap_mim_m3_1		
v4  ip1 GND pwl		
X4  ip1 Net-_X10-Pad2_ Net-_U7-Pad1_ VLC_new		
F1  Net-_F1-Pad1_ Net-_F1-Pad2_ Net-_F1-Pad3_ DFF_new		
X5  Net-_U2-Pad3_ Net-_X11-Pad2_ Net-_U7-Pad2_ VLC_new		
U5  ip1 Net-_U2-Pad3_ Net-_F1-Pad1_ Net-_F1-Pad2_ adc_bridge_2		
X6  Net-_U7-Pad1_ Net-_X10-Pad2_ Net-_U9-Pad1_ VLC_new		
F2  Net-_F2-Pad1_ Net-_F2-Pad2_ Net-_F2-Pad3_ DFF_new		
X7  Net-_U7-Pad2_ Net-_X11-Pad2_ Net-_U9-Pad2_ VLC_new		
U7  Net-_U7-Pad1_ Net-_U7-Pad2_ Net-_F2-Pad1_ Net-_F2-Pad2_ adc_bridge_2		
v5  Net-_X10-Pad2_ GND DC		
U6  Net-_F1-Pad3_ Net-_U17-Pad8_ dac_bridge_1		
U8  Net-_F2-Pad3_ Net-_U17-Pad7_ dac_bridge_1		
v6  Net-_X11-Pad2_ GND DC		
X8  Net-_U9-Pad1_ Net-_X10-Pad2_ Net-_U11-Pad1_ VLC_new		
F3  Net-_F3-Pad1_ Net-_F3-Pad2_ Net-_F3-Pad3_ DFF_new		
X9  Net-_U9-Pad2_ Net-_X11-Pad2_ Net-_U11-Pad2_ VLC_new		
U9  Net-_U9-Pad1_ Net-_U9-Pad2_ Net-_F3-Pad1_ Net-_F3-Pad2_ adc_bridge_2		
U10  Net-_F3-Pad3_ Net-_U10-Pad2_ dac_bridge_1		
X10  Net-_U11-Pad1_ Net-_X10-Pad2_ Net-_U13-Pad1_ VLC_new		
F4  Net-_F4-Pad1_ Net-_F4-Pad2_ Net-_F4-Pad3_ DFF_new		
X11  Net-_U11-Pad2_ Net-_X11-Pad2_ Net-_U13-Pad2_ VLC_new		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ Net-_F4-Pad1_ Net-_F4-Pad2_ adc_bridge_2		
U12  Net-_F4-Pad3_ Net-_U12-Pad2_ dac_bridge_1		
X12  Net-_U13-Pad1_ Net-_X10-Pad2_ Net-_U15-Pad1_ VLC_new		
F5  Net-_F5-Pad1_ Net-_F5-Pad2_ Net-_F5-Pad3_ DFF_new		
X13  Net-_U13-Pad2_ Net-_X11-Pad2_ Net-_U15-Pad2_ VLC_new		
U13  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_F5-Pad1_ Net-_F5-Pad2_ adc_bridge_2		
U14  Net-_F5-Pad3_ Net-_U14-Pad2_ dac_bridge_1		
X14  Net-_U15-Pad1_ Net-_X10-Pad2_ Net-_U19-Pad1_ VLC_new		
F6  Net-_F6-Pad1_ Net-_F6-Pad2_ Net-_F6-Pad3_ DFF_new		
X15  Net-_U15-Pad2_ Net-_X11-Pad2_ Net-_U19-Pad2_ VLC_new		
U15  Net-_U15-Pad1_ Net-_U15-Pad2_ Net-_F6-Pad1_ Net-_F6-Pad2_ adc_bridge_2		
U18  Net-_F6-Pad3_ Net-_U17-Pad3_ dac_bridge_1		
X16  Net-_U19-Pad1_ Net-_X10-Pad2_ Net-_U25-Pad1_ VLC_new		
F7  Net-_F7-Pad1_ Net-_F7-Pad2_ Net-_F7-Pad3_ DFF_new		
X17  Net-_U19-Pad2_ Net-_X11-Pad2_ Net-_U25-Pad2_ VLC_new		
U19  Net-_U19-Pad1_ Net-_U19-Pad2_ Net-_F7-Pad1_ Net-_F7-Pad2_ adc_bridge_2		
U21  Net-_F7-Pad3_ Net-_U17-Pad2_ dac_bridge_1		
F8  Net-_F8-Pad1_ Net-_F8-Pad2_ Net-_F8-Pad3_ DFF_new		
U25  Net-_U25-Pad1_ Net-_U25-Pad2_ Net-_F8-Pad1_ Net-_F8-Pad2_ adc_bridge_2		
U26  Net-_F8-Pad3_ Net-_U17-Pad1_ dac_bridge_1		
U17  Net-_U17-Pad1_ Net-_U17-Pad2_ Net-_U17-Pad3_ Net-_U14-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U17-Pad7_ Net-_U17-Pad8_ Net-_U16-Pad1_ Net-_U16-Pad2_ Net-_U16-Pad3_ Net-_U16-Pad4_ Net-_U16-Pad5_ Net-_U16-Pad6_ Net-_U16-Pad7_ Net-_U16-Pad8_ adc_bridge_8		
U16  Net-_U16-Pad1_ Net-_U16-Pad2_ Net-_U16-Pad3_ Net-_U16-Pad4_ Net-_U16-Pad5_ Net-_U16-Pad6_ Net-_U16-Pad7_ Net-_U16-Pad8_ Net-_U16-Pad9_ Net-_U16-Pad10_ Net-_U16-Pad11_ samyuktha_encoder		
U20  Net-_U16-Pad9_ Net-_U16-Pad10_ Net-_U16-Pad11_ op1 op2 op3 dac_bridge_3		
U24  op1 plot_v1		
U22  op2 plot_v1		
U23  op3 plot_v1		
U4  ip1 plot_v1		
v3  Net-_SC1-Pad3_ GND DC		
scmode1  SKY130mode		

.end
